US06313137B1
Synthesis of 2-ethyl-6-methylbenzyl 5-(2-ethyl-6-methylbenzyloxy)-6-nitronicotinate
5-hydroxy-6-nitronicotinic acid (1 g, 5 mmol), 2-ethyl-6-methylbenzylchloride (1.85 g, 11 mmol), N,N-diisopropylamine (1.75 g, 14 mmol) and tetrabutylammonium iodide (0.1 g) was added to acetonitrile (10 ml) and was refluxed for 3 h. The solvent was evaporated under reduced pressure and the residue was solved in methylene chloride and washed with water. The organic layer was separated , dried and evaporated under reduced pressure. Purification of the residue by column chromatograhy on silica gel using n-hexane:methylene chloride (1:1) as eluent gave 0.7 g (29%) of the title compound.

reactant | 5-hydroxy-6-nitronicotinic acid | 5 mmol, 1 g | OC=1C(=NC=C(C(=O)O)C1)[N+](=O)[O-] | C6H4N2O5
reactant | 2-ethyl-6-methylbenzylchloride | 11 mmol, 1.85 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | N,N-diisopropylamine | 14 mmol, 1.75 g | C(C)(C)NC(C)C | C6H15N
catalyst | tetrabutylammonium iodide | 0.1 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-ethyl-6-methylbenzyl 5-(2-ethyl-6-methylbenzyloxy)-6-nitronicotinate | 0.7 g, 29% | C(C)C1=C(COC=2C(=NC=C(C(=O)OCC3=C(C=CC=C3C)CC)C2)[N+](=O)[O-])C(=CC=C1)C | C26H28N2O5
